US06165941
5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-3-cyanomethyl-1-(1-methylethyl)benzimidazol-2-one (Table 3, Compound No. Ic.10)
In a similar manner to the preparation of 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one described above, 2.5 g of 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)benzimidazol-2-one and 0.9 g of bromoacetonitrile gave, after chromatography on silica gel, 1.4 g of colorless crystals. Yield: 50%; m.p.: 158-159° C.

reactant | 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-3-methyl-1-(1-methylethyl)benzimidazol-2-one | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2C)=O)C(C)C)C=C1 | C17H15ClF3N3O
reactant | 5-(3-chloro-5-trifluoromethylpyridin-2-yl)-1-(1-methylethyl)benzimidazol-2-one | 2.5 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2)=O)C(C)C)C=C1 | C16H13ClF3N3O
reactant | bromoacetonitrile | 0.9 g | BrCC#N | C2H2BrN
product | 5-(3-Chloro-5-trifluoromethylpyridin-2-yl)-3-cyanomethyl-1-(1-methylethyl)benzimidazol-2-one | Yield: 50% | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC2=C(N(C(N2CC#N)=O)C(C)C)C=C1 | C18H14ClF3N4O
